US05342941
To a suspension of 1-(4-pyridyl)-2,3-bis(hydroxy-methyl)-6,7-diethoxynaphthalene (7.0 g) in dry dimethylformamide (14 ml) is added 2-methoxyethyl iodide (7.35 g), and the mixture is stirred at 80° C. overnight. The mixture is allowed to cool, and thereto added ethyl acetate. The precipitated crystal is collected by filtration to give 4-[2,3-bis(hydroxymethyl)-6,7-diethoxy-1naphthyl]-N-(2-methoxyethyl)pyridinium iodide (8.50 g).

reactant | 1-(4-pyridyl)-2,3-bis(hydroxy-methyl)-6,7-diethoxynaphthalene | 7.0 g | N1=CC=C(C=C1)C1=C(C(=CC2=CC(=C(C=C12)OCC)OCC)CO)CO | C21H23NO4
reactant | 2-methoxyethyl iodide | 7.35 g | COCCI | C3H7IO
reactant | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 14 ml | CN(C=O)C | C3H7NO
product | 4-[2,3-bis(hydroxymethyl)-6,7-diethoxy-1naphthyl]-N-(2-methoxyethyl)pyridinium iodide | 8.50 g, Yield: 79.8% | [I-].OCC1=C(C2=CC(=C(C=C2C=C1CO)OCC)OCC)C1=CC=[N+](C=C1)CCOC | InChI=1S/C24H30NO5.HI/c1-4-29-22-13-18-12-19(15-26)21(16-27)24(20(18)14-23(22)30-5-2)17-6-8-25(9-7-17)10-11-28-3;/h6-9,12-14,26-27H,4-5,10-11,15-16H2,1-3H3;1H/q+1;/p-1
